US03950353
The reaction of 5-hydroxymethylthiazole (2.01 g.) with cysteamine hydrochloride (1.99 g.) in aqueous hydrobromic acid by the method described in Example 1(i)(a) gave 5-[(2-aminoethyl)thiomethyl]thiazole dihydrobromide (4.85 g.), m.p. 191°-194° (from methanol).

reactant | 5-hydroxymethylthiazole | 2.01 g | OCC1=CN=CS1 | C4H5NOS
reactant | cysteamine hydrochloride | 1.99 g | Cl.NCCS
reactant | methanol | CO | CH4O
reactant | hydrobromic acid | Br | BrH
product | 5-[(2-aminoethyl)thiomethyl]thiazole dihydrobromide | 4.85 g | Br.Br.NCCSCC1=CN=CS1 | InChI=1S/C6H10N2S2.2BrH/c7-1-2-9-4-6-3-8-5-10-6;;/h3,5H,1-2,4,7H2;2*1H
